US05028606
A mixture of 6 parts of 7-(1H-imidazol-1-ylmethyl)-3-methyl-2(1H)-quinoxalinone and 40 parts of phosphoryl chloride was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated to dry. The residue was taken up in 300 parts of ice water and the whole was neutralized with potassium carbonate. The product was extracted three times with 65 parts of dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane. The product was filtered off and dried, yielding 1.6 parts (59.4%) of 3-chloro-6-(1H-imidazol-1-ylmethyl)-2-methylquinoxaline; mp. 115.8° C. (comp. 22).

reactant | 7-(1H-imidazol-1-ylmethyl)-3-methyl-2(1H)-quinoxalinone | N1(C=NC=C1)CC1=CC=C2N=C(C(NC2=C1)=O)C | C13H12N4O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-(1H-imidazol-1-ylmethyl)-2-methylquinoxaline | 59.4% | ClC=1C(=NC2=CC=C(C=C2N1)CN1C=NC=C1)C | C13H11ClN4
